### PR TITLE
chore(ir): add get-set lemmas for `WfRewriter.replaceValue`

### PR DESCRIPTION
**Pull request by math-fehr**
Also, add a few lemmas that were missing about `Rewriter.replaceValue`.

### CODE REVIEW

File: Veir/Rewriter/WfRewriter/GetSet.lean [hunk 1]
```diff
@@ -693,4 +693,188 @@ theorem OperationPtr.getResultTypes!_wfRewriter_eraseOp :
...
+    suffices oldValue.hasUses! ctx.raw by grind [ValuePtr.hasUses!_def]
+    grind
+  · grind [OpOperandPtr.inBounds_def]
+
+@[grind =]
+theorem OperationPtr.getOperands!_WfRewriter_replaceValue :
+    operation.InBounds ctx.raw →
+    operation.getOperands! (WfRewriter.replaceValue ctx oldValue newValue ne oldIn newIn).raw =
+    (operation.getOperands! ctx.raw).map (fun v => if v = oldValue then newValue else v) := by
+  grind
```
Comment (math-fehr) [inline Veir/Rewriter/WfRewriter/GetSet.lean:807]: These two lemmas require `InBounds` hypotheses

**Review by tobiasgrosser — APPROVED** [review]
